US06495543B1
2-(2-Isopropyl-7,8-dihydro-6H-pyrido[2,3-b]pyrrolizin-9-yl)ethylamine
The procedure is as for Preparation 8, in Step A replacing 5-methoxy-1H-pyrrolo[3,2-b]pyridine by 5-isopropyl-1H-pyrrolo[3,2-b]pyridine and 1,4-dibromobutane by 1,3-dibromopropane.

reactant | 5-methoxy-1H-pyrrolo[3,2-b]pyridine | COC1=CC=C2C(=N1)C=CN2 | C8H8N2O
reactant | 5-isopropyl-1H-pyrrolo[3,2-b]pyridine | C(C)(C)C1=CC=C2C(=N1)C=CN2 | C10H12N2
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
product | 2-(2-Isopropyl-7,8-dihydro-6H-pyrido[2,3-b]pyrrolizin-9-yl)ethylamine | C(C)(C)C=1C=CC2=C(C(=C3CCCN23)CCN)N1 | C15H21N3
